US07700595B2
[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl][(1-methyl-1H-indol-7-yl)methyl]amine
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 1-methyl-1H-indole-7-carbaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 474.9.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 1-methyl-1H-indole-7-carbaldehyde | CN1C=CC2=CC=CC(=C12)C=O | C10H9NO
product | [3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl][(1-methyl-1H-indol-7-yl)methyl]amine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC=1C=CC=C2C=CN(C12)C | C30H23ClN4
